US07531553B2
Preparation XL: 4-Chloro-3-(tetrahydrofuran-2-ylmethoxy)-phenylamine
A solution of 2-(2-chloro-5-nitro-phenoxymethyl)-tetrahydrofuran (0.45 g, 1.75 mmol) in EtOAc (10 mL) was degassed with argon then charged with 10% by weight Pd/C (0.4 g). The mixture was stirred for 7 h under an H2 atmosphere, filtered through Celite® and concentrated in vacuo. A mixture contained the title compound along with starting material in a 7:3 ratio. MS: (MH+)=227.1; Calc'd 227.69 for C11H15ClNO2.

reactant | 2-(2-chloro-5-nitro-phenoxymethyl)-tetrahydrofuran | 1.75 mmol, 0.45 g | ClC1=C(OCC2OCCC2)C=C(C=C1)[N+](=O)[O-] | C11H12ClNO4
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 4-Chloro-3-(tetrahydrofuran-2-ylmethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OCC1OCCC1 | C11H14ClNO2
